US04464381
A solution of 10 g of 2-bromomethyl-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane (isomer A) in 50 mL of N,N-dimethylformamide was added dropwise, at 100° C., to a melt which comprised 15.6 g of imidazole with 1.37 g of sodium methylate and from which the liberated methanol had been distilled off beforehand. After 8 hours, the reaction solution was poured onto water and the mixture was extracted with ethyl acetate. The organic phase was washed with water, dried over sodium sulfate and evaporated down under reduced pressure, and the residue was chromatographed over a silica gel column using methylene chloride/methanol (100:2). The purified fractions were evaporated down, and the residue was crystallized from diisopropyl ether. 4.6 g (47.5%) of 2-(1H-imidazol-1-yl-methyl)-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane (isomer A) of melting point 102°-103° C. were obtained (compound 1).

reactant | 2-bromomethyl-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane | 10 g | BrCC1(OC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C15H10BrCl3O
reactant | imidazole | 15.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium methylate | 1.37 g | C[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(1H-imidazol-1-yl-methyl)-2-(4-chlorophenyl)-3-(2,4-dichlorophenyl)-oxirane | 4.6 g, 47.5% | N1(C=NC=C1)CC1(OC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C18H13Cl3N2O
